US08314088B2
3-(2-methylpyrrolidin-1-yl)-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine hydrochloride
To a solution of 8-benzyl-3-(2-methylpyrrolidin-1-yl)-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine (0.51 g) in methanol (15 mL) was added 20% Pd(OH)2/C (0.08 g), and the mixture was stirred under a hydrogen atmosphere at 50° C. for 1 hr. The reaction mixture was filtered, and the filtrate was concentrated. To a solution of the obtained crude product in ethyl acetate (15 mL) was added a 4 N hydrogen chloride-ethyl acetate solution (430 μL), and the mixture was stirred for 30 min. The reaction mixture was filtered, and the obtained crystals were purified by recrystallization (methanol-ethyl acetate) to give the title compound (0.30 g, 71%) as a colorless powder.

reactant | 8-benzyl-3-(2-methylpyrrolidin-1-yl)-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine | 0.51 g | C(C1=CC=CC=C1)N1CCOC2=C(C1)N=CC(=N2)N2C(CCC2)C | C19H24N4O
reactant | hydrogen chloride-ethyl acetate | 4 N, 430 μL | C(C)(=O)OCC.Cl
solvent | methanol | 15 mL | CO | CH4O
catalyst | Pd(OH)2/C | 0.08 g | [OH-].[OH-].[Pd+2]
product | 3-(2-methylpyrrolidin-1-yl)-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine hydrochloride | 0.30 g, 71% | Cl.CC1N(CCC1)C1=NC2=C(CNCCO2)N=C1 | InChI=1S/C12H18N4O.ClH/c1-9-3-2-5-16(9)11-8-14-10-7-13-4-6-17-12(10)15-11;/h8-9,13H,2-7H2,1H3;1H
